US04985448
(g) 6-Amino-1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one
22 g. (0.1 mole) 1,2,3,4-tetrahydro-4,4-dimethyl-6-nitroquinolin-2-one in 500 ml. methanol are, after the addition of 2 g. palladium on charcoal (10%), hydrogenated at atmospheric pressure. After separating off the catalyst, the solvent is removed in a vacuum. Yield 18.4 g. (97% of theory); m.p. 126°-130° C.

reactant | 1,2,3,4-tetrahydro-4,4-dimethyl-6-nitroquinolin-2-one | 0.1 mole | CC1(CC(NC2=CC=C(C=C12)[N+](=O)[O-])=O)C | C11H12N2O3
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 6-Amino-1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one | NC=1C=C2C(CC(NC2=CC1)=O)(C)C | C11H14N2O
